US08431596B2
2-(4-Chloro-phenyl)-propionic acid
Lithium hydroxide (0.17 g, 7.10 mmol) was added to a stirred solution of 2-(4-chloro-phenyl)-propionic acid methyl ester (0.47 g, 2.366 mmol) in tetrahydrofuran, water and:methanol (4:1:1, 12 ml). The mixture was stirred overnight and the volatiles evaporated in vacuo. The mixture was basified by addition of aqueous sodium hydrogencarbonate and washed with ethyl acetate. The aqueous was then acidified with 2M HCl and the product extracted into ethyl acetate. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give the desired product. Yield 0.4 g, 91%. NMR 1H (300 MHz, DMSO): 1.36 (d, 3H), 3.72 (q, 1H), 7.23-7.38 (m, 4ArH), 12.48 (bs, 1H).

reactant | Lithium hydroxide | 7.10 mmol, 0.17 g | [OH-].[Li+]
reactant | 2-(4-chloro-phenyl)-propionic acid methyl ester | 2.366 mmol, 0.47 g | COC(C(C)C1=CC=C(C=C1)Cl)=O | C10H11ClO2
reactant | methanol | 12 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-Chloro-phenyl)-propionic acid | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
